reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[O:1]([C:2]([C@@:3]1([H:11])[C:4]([H:12])([H:13])[C:5]([H:14])([H:15])[O:6][C:7]1([H:16])[H:17])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]([C:4](=[C:5]([H:14])[H:15])[H:12])([C:7]([O:6][H:13])([H:16])[H:17])[H:11])([H:9])[H:10])[H:8],82.59310656038849
[C:1]([C:2](=[O:3])[C:4](=[O:5])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C:2](=[O:3])[O+:5]=[C-:4][H:9])([H:6])([H:7])[H:8],65.7440820912982
[N:1]([C:2](=[O:3])[N:4]([C:5](=[O:6])[H:10])[H:9])([H:7])[H:8]>>[N:1]([C+:2]([O:3][C:5](=[O:6])[H:10])[N-:4][H:9])([H:7])[H:8],43.7633913769183
[C:1]([H:8])([H:9])([H:10])[H:12].[C:2](=[O:3])([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])[H:11]>>[C:1]([C@@:2]([O:3][H:12])([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])[H:11])([H:8])([H:9])[H:10],75.81987225749793
[C:1]([O:2][C:3]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9].[C:4](=[O:5])=[N:6][H:13]>>[C:1]([O:2][C:3]([C:4](=[O:5])[N:6]([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],73.43625427907389
[C:1](/[C:2]([C:3](=[O:4])[H:12])=[C:5](/[O:6][H:11])[N:7]([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3](=[O:4])[H:12])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],37.7045315999118
[C:1]([O:2]/[C:3]([O:4][H:12])=[C:5](/[C:6](=[O:7])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],39.5432558685891
[O:1]([N:2]=[C:3]1[C:4]([H:8])([H:9])[N:5]([H:10])[C:6]1([H:11])[H:12])[H:7]>>[O:1]=[N:2][C:3]1([H:7])[C:4]([H:8])([H:9])[N:5]([H:10])[C:6]1([H:11])[H:12],75.23471752773041
[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8]>>[H:8][H:9].[O:1]=[C:2]=[N:3][C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11],80.58472568409941
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4][C:5]([C:6]#[C:7][H:17])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6]#[C:7][H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10],3.0250914354684824
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@@:4]2([O:5][H:12])[C:6]([H:13])([H:14])[C@@:7]12[H:15])[H:8]>>[O:1]([C@@:2]([C:3]([H:10])([H:11])[H:12])([C@@:7]1([H:15])[C:4](=[O:5])[C:6]1([H:13])[H:14])[H:9])[H:8],76.52287115796129
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]#[N:5])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]=[N:5][H:9])([H:6])([H:7])[H:8],92.6406965591051
[C:1](=[C:2]1[N:3]([H:10])[O:6][C:5]([H:9])([H:11])[O:4]1)([H:7])[H:8]>>[C:1](/[C:2](=[N:3]/[H:10])[O:4][C:5](=[O:6])[H:11])([H:7])([H:8])[H:9],54.1184918563466
[C:1](/[C:2](=[C:3](\[O:4][H:11])[C:5]#[N:6])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9],64.01501750831314
[C:2]([C@@:3]([O:4][H:11])([C:5]#[C:6][H:12])[H:10])[H:8].[O:1]([H:7])[H:9]>>[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5]#[C:6][H:12])[H:10])([H:8])[H:9])[H:7],5.588054208150098
[O:1]([C@@:2]([C:3](=[O:4])[H:9])([C:5]#[C:6][H:10])[H:8])[H:7]>>[O:1]([C@@:2]1([H:8])[C:3]([H:9])=[C:5]1[C:6](=[O:4])[H:10])[H:7],79.2128743368323
[C:1]([H:8])([H:9])([H:10])[H:14].[C:2]([C:3](=[O:4])[H:13])([C:5]([C:6]#[N:7])([H:15])[H:16])([H:11])[H:12]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]#[N:7])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],95.27674112899464
[C:1]([C:2](=[O:3])[C:4]([H:8])([H:9])[H:10])([H:5])([H:6])[H:7]>>[C:1]([O+:3]=[C-:2][C:4]([H:8])([H:9])[H:10])([H:5])([H:6])[H:7],114.436273709623
[C:1]([O:7][C:6](=[C:5]([H:11])[H:12])[H:13])([H:8])([H:9])[H:10].[O:2]=[C:3]=[O:4]>>[C:1]([O:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],81.0721853110472
[C:1]1([H:6])([H:7])[O:2][C:3]([H:9])([H:10])[C:4][N:5]1[H:8]>>[C:1]([O:2][C:3]([C:4]#[N:5])([H:9])[H:10])([H:6])([H:7])[H:8],55.59148354074519
[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5](=[C:6]=[N:7][H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]#[N:7])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],67.9620482116759
[C:1](=[C:3]1[C:2]([H:9])([H:10])[O:6][C:5]([H:13])([H:14])[C:4]1([H:11])[H:12])([H:7])[H:8]>>[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]12[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[O:6]2,95.3056687920768
[N:1](=[C:2](/[O:3][C:4]([C:5]#[N:6])([H:9])[H:10])[H:8])\[H:7]>>[n:1]1([H:7])[c:2]([H:8])[o+:3][c:4]([H:9])[c:5]1[N-:6][H:10],96.88665522596148
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])(/[C:4](=[C:5](/[C:6]([H:18])([H:19])[H:20])[O:7][H:21])[H:15])[H:11])([H:8])([H:9])[H:10].[H:16][H:17]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C@@:5]([C:6]([H:18])([H:19])[H:20])([O:7][H:21])[H:17])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10],78.97222261311701
[C:1]([C:2](/[C:3](=[N+:4](\[C:5]([O-:6])=[C:7]([H:16])[H:18])[H:15])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][H:17]>>[C:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],23.459014730170892
